US06783840B2
To a three-necked flask, 327 g of 2-methyl-4-cyclohexene-1-carboaldehyde, a Diels-Alder reaction product of butadiene and crotonaldehyde, 600 ml of methanol and 729 g of 37% of formalin were charged, and then the temperature of this solution was raised to 60° C. with stirring. Next, 252 g of KOH dissolved in 600 ml of distilled water was added dropwise thereto. After stirring for 7 hours, the reaction solution was concentrated under reduced pressure, which resulted in a residue with two phases. The oil phase concentrated to about 150 ml was washed with 300 ml of distilled water. After concentration under reduced pressure, 50 mg of 3,5-di(t-butyl)-4-hydroxytoluene (BHT) was added to the oil phase, and then vacuum distillation was carried out to yield 311 g (yield 82%) of 6-methyl-3-cyclohexene-1,1-dimethanol as a colorless crystal.

reactant | 2-methyl-4-cyclohexene-1-carboaldehyde | 327 g | CC1C(CC=CC1)C=O | C8H12O
reactant | butadiene | C=CC=C | C4H6
reactant | crotonaldehyde | C(\C=C\C)=O | C4H6O
reactant | formalin | 729 g | C=O | CH2O
reactant | KOH | 252 g | [OH-].[K+]
solvent | water | 600 ml | O | H2O
solvent | methanol | 600 ml | CO | CH4O
product | 6-methyl-3-cyclohexene-1,1-dimethanol | 311 g, yield 82% | CC1CC=CCC1(CO)CO | C9H16O2
